US07465815B2
N-Benzyl-3-(4-isopropylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine
To a solution of 5-bromo-3-(4-isopropylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran obtained in Reference Example 18 (920 mg, 2.56 mmol) and benzylamine (0.34 mL, 3.07 mmol) in toluene (10 mL), were added palladium acetate (6 mg, 0.03 mmol) and BINAP (48 mg, 0.09 mmol) at room temperature, and the mixture was stirred under argon stream for 15 minutes. Sodium tert-butoxide (344 mg, 3.58 mmol) was added to the reaction solution at room temperature, and then the mixture was heated under reflux for 18 hours. Water was added to the reaction solution, which was extracted with ethyl acetate, the organic layer was washed with water and a saturated brine and then was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:1) to obtain 900 mg (yield 91%) of the title compound as an oily matter. Oily matter.

reactant | 5-bromo-3-(4-isopropylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran | BrC=1C(=C(C2=C(C(CO2)C2=CC=C(C=C2)C(C)C)C1C)C)C | C20H23BrO
reactant | benzylamine | 3.07 mmol, 0.34 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | Sodium tert-butoxide | 3.58 mmol, 344 mg | CC(C)([O-])C.[Na+]
reactant | Water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.03 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.09 mmol, 48 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | N-Benzyl-3-(4-isopropylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | 900 mg, yield 91% | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(CO2)C2=CC=C(C=C2)C(C)C)C1C)C)C | C27H31NO
